US06521643B1
To a stirred solution of 2-chloro-4-methylthiazole (6.35 g) in tetrahydrofuran (50 ml) was added a solution of n-butyllithium in n-hexane (1.66M, 34.35 ml) dropwise at −70° C. under a nitrogen atmosphere, and the mixture was stirred for 20 minutes at −70° C. To the resultant mixture was added a solution of 2-cyano-4-methylpyridine (3.74 g) in tetrahydrofuran (30 ml) dropwise at −70° C., and the mixture was stirred for 15 minutes. The mixture was poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography (silica gel 240 g, n-hexane:ethyl acetate=10:1) to give 2-chloro-4-methyl-5-(4-methylpyridin-2-ylcarbonyl)thiazole (1.64 g).

reactant | 2-chloro-4-methylthiazole | 6.35 g | ClC=1SC=C(N1)C | C4H4ClNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-cyano-4-methylpyridine | 3.74 g | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.66M, 34.35 ml | CCCCCC | C6H14
product | 2-chloro-4-methyl-5-(4-methylpyridin-2-ylcarbonyl)thiazole | 1.64 g | ClC=1SC(=C(N1)C)C(=O)C1=NC=CC(=C1)C | C11H9ClN2OS
